US03931247
α-Chloromethyl-5-(p-nitrophenyl)furfuryl Alcohol
Sodium borohydride (1.6 g, 0.043 mole) was added in portions to a stirred mixture of 11.5 g (0.043 mole) of chloromethyl 5-(p-nitrophenyl)-2-furyl ketone in 150 ml of absolute methanol over 10 minutes at 15°-20°. The resulting solution was stirred at ambient temperature for 2.5 hours, poured into a mixture of ice and water (400 ml), and made acidic with 5% aqueous HCl. The yellow solid was collected by filtration and washed with water to give 11.5 g (100%) of title compound. Recrystallization from a MeOH--H2O mixture gave an analytical sample, m.p. 111°-113°.

reactant | Sodium borohydride | 0.043 mole, 1.6 g | [BH4-].[Na+]
reactant | chloromethyl 5-(p-nitrophenyl)-2-furyl ketone | 0.043 mole, 11.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(=O)CCl | C12H8ClNO4
reactant | water | 400 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | α-Chloromethyl-5-(p-nitrophenyl)furfuryl Alcohol | 11.5 g, 100% | ClCC(C1=CC=C(O1)C1=CC=C(C=C1)[N+](=O)[O-])O | C12H10ClNO4
